US04239902
(a) tert.-Butoxycarbonyl-L-phenylalanine β-naphthyl ester
6.2 g of dicyclohexylcarbodiimide are added to a solution of 7.8 g of tert.-butyoxycarbonyl-L-phenylalanine and 5.3 g of β-naphthol in 50 ml of absolute tetrahydrofurane at 0° C. and the reaction mixture was kept at 4° C. for 12 hours. The dicyclohexylurea which had precipitated was then separated off by filtration and the filtrate was evaporated to dryness in vacuo. The crystalline residue was recrystallised twice from ethyl acetate/cyclohexane and finally from acetonitrile. 8.5 g (73% of theory) of melting point 118°-119° C. were obtained.

reactant | dicyclohexylcarbodiimide | 6.2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | tert.-butyoxycarbonyl-L-phenylalanine | 7.8 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | β-naphthol | 5.3 g | C1=C(C=CC2=CC=CC=C12)O | C10H8O
solvent | tetrahydrofurane | 50 ml | O1CCCC1 | C4H8O
product | tert.-Butoxycarbonyl-L-phenylalanine β-naphthyl ester | C1=C(C=CC2=CC=CC=C12)OC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=CC=C1)=O | C24H25NO4
